US05447925
A solution of 1-allyloxycarbonyl-2-aminomethyl-4-t-butoxycarbonylthiopyrrolidine (10 mmol) in acetic acid (25 ml), was saturated with hydrogen chloride and heated on a steam bath for 5 minutes. The solution was filtered and the filtrate evaporated. The residue was taken up in 2.5N aqueous solution of sodium hydroxide (25 ml) and ethanol (10 ml). A solution of potassium hexacyanoferrate (11 mmols) in water (20 ml) was added portion wise until a yellow colour persisted. The reaction was stirred at room temperature for 1 hour. The reaction mixture was partitioned between water and dichloromethane. The organic layer was washed with water, a saturated aqueous solution of sodium chloride and dried (MgSO4). The solvent was removed by evaporation to give diallyl 4,4'-dithiodi[2-(aminomethyl)pyrrolidin-1-carboxylate] as a brown oil. NMR (DMSO-d6): 1.88(m,1H); 2.34(m,2H); 2.87(m, partially obscured); 3.20(m,1H); 3.55(m,1H); 3.76(m, 1H); 3.90(m,1H); 4.5 (m,1H); 5.2(m,2H); 5.94(m,1H): M/S CI (M+H)+= 431.

reactant | 1-allyloxycarbonyl-2-aminomethyl-4-t-butoxycarbonylthiopyrrolidine | 10 mmol | C(C=C)OC(=O)N1C(CC(C1)SC(=O)OC(C)(C)C)CN | C14H24N2O4S
reactant | hydrogen chloride | Cl | ClH
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | water | 20 ml | O | H2O
catalyst | potassium hexacyanoferrate | 11 mmols | [C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[K+].[K+].[K+].[K+].[Fe+6]
product | diallyl 4,4'-dithiodi[2-(aminomethyl)pyrrolidin-1-carboxylate] | NCC1N(CC(C1)SSC1CC(N(C1)C(=O)OCC=C)CN)C(=O)OCC=C | C18H30N4O4S2
